US07144876B2
3-(4-Chloro-benzyloxy)-5-(3-chlorothiophen-2-yl)-[1,2,4]-oxadiazole
A stirred solution of (3-chlorothiophene-2-carbonyl)-thiocarbamic acid O-(4-chloro-benzyl) ester (52.3 mg, 0.151 mg), hydroxylamine hydrochloride (20.7 mg, 0.298 mmol) was refluxed under argon for 1 h. The solution was cooled to room temperature, then water (6 mL) was added to precipitate the product, and the mixture was filtered. The filter cake was dissolved in dichloromethane, filtered through glass wool, and rotary evaporated to dryness. The product was recrystallized from dichloromethane/methanol to yield 3.1 mg (6.2%) of the title compound as a white solid. 1H NMR (CDCl3): 7.58 (d, J=5.7 Hz, 1H), 7.44 (d, J=8.4 Hz, 1H), 7.37 (d, J=8.4 Hz, 1H), 7.10 (d, J=5.1 Hz, 1H), 5.36 (s, 2H).

reactant | (3-chlorothiophene-2-carbonyl)-thiocarbamic acid O-(4-chloro-benzyl) ester | 52.3 mg | ClC1=CC=C(COC(NC(=O)C=2SC=CC2Cl)=S)C=C1 | C13H9Cl2NO2S2
reactant | hydroxylamine hydrochloride | 0.298 mmol, 20.7 mg | Cl.NO
solvent | water | 6 mL | O | H2O
product | 3-(4-Chloro-benzyloxy)-5-(3-chlorothiophen-2-yl)-[1,2,4]-oxadiazole | 3.1 mg, 6.2% | ClC1=CC=C(COC2=NOC(=N2)C=2SC=CC2Cl)C=C1 | C13H8Cl2N2O2S
